US07667039B2
1-(2-Fluoro-4-nitro-phenyl)-pyrrolidin-2-one
To 468 mg (5.5 mmol) of 2-pyrrolidone (Fluka, Buchs, Switzerland) in 10 ml of DMF at 0° C. are added 240 mg (5.5 mmol) of 55% NaH in oil. The reaction mixture is stirred for 30 min at 0° C. and for 30 min at rt. After this time, 795 mg (5 mmol) of 3,4-difluoronitrobenzene (Aldrich, Buchs, Switzerland) are added and the reaction mixture is stirred for 1 h at rt. The reaction mixture is quenched with 1 M aqueous HCl and extracted with EtOAc (2×). The organic layers are washed with aqueous sat. NaHCO3 and with brine (3×), dried over MgSO4, filtered and evaporated. The residue is purified by flash chromatography on silica gel (hexane-EtOAc 5:1 to 1:3) to give the title compound as a solid. ES-MS: 225 (M+H)+; analytical HPLC: tret=2.99 minutes (Grad 1).

reactant | 2-pyrrolidone | 5.5 mmol, 468 mg | N1C(CCC1)=O | C4H7NO
reactant | NaH | 5.5 mmol, 240 mg | [H-].[Na+]
reactant | 3,4-difluoronitrobenzene | 5 mmol, 795 mg | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(2-Fluoro-4-nitro-phenyl)-pyrrolidin-2-one | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(CCC1)=O | C10H9FN2O3
